US07932272B2
6-Quinolinecarboxlic acid 3-(3-methyl-2-butenyloxy)-benzylamide
6-Quinolinecarboxylic acid (100 mg, 0.577 mmol), 3-(3-methyl-2-butenyloxy)-benzylamine described in Preparation Example 134 (112 mg, 0.635 mmol), benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (306 mg, 0.693 mmol) and triethylamine (0.12 mL, 0.87 mmol) were dissolved in tetrahydrofuran (5 mL), and the solution was stirred at room temperature for 3 hours. The solvent was evaporated in vacuo, the obtained residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=4:1), and the title compound (153 mg, 80.1%) was obtained as a white solid.

reactant | 6-Quinolinecarboxylic acid | 0.577 mmol, 100 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 3-(3-methyl-2-butenyloxy)-benzylamine | CC(=CCOC=1C=C(CN)C=CC1)C | C12H17NO
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 0.693 mmol, 306 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.87 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-Quinolinecarboxlic acid 3-(3-methyl-2-butenyloxy)-benzylamide | 153 mg, 80.1% | CC(=CCOC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1)C | C22H22N2O2
